US04125729
Methyl α-(p-tert-butylphenoxy)-α-[p-(p-aminophenoxy)phenyl]acetate
To a suspension of 2.18 g of methyl α-(p-tert-butylphenoxy)-α-[p-(p-nitrophenoxy)phenyl]acetate in 50 ml of methanol was added 160 mg of 10% palladium on carbon and the mixture hydrogenated with shaking. The mixture was filtered and the filtrate concentrated under vacuum to give 2.1 g of the product as a gum.

reactant | methyl α-(p-tert-butylphenoxy)-α-[p-(p-nitrophenoxy)phenyl]acetate | 2.18 g | C(C)(C)(C)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C25H25NO6
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 160 mg | [Pd] | Pd
product | Methyl α-(p-tert-butylphenoxy)-α-[p-(p-aminophenoxy)phenyl]acetate | 2.1 g | C(C)(C)(C)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)N)C=C1 | C25H27NO4
